US06720320B2
2-(5-ethyloxazol-2-yl)-4-methoxybenzo(b)furan
To a solution of N-(2-oxobutyl)-4-methoxybenzo(b)furan-2-carboxamide (2.00 g) in THF (60 ml) was added Burgess reagent (7.30 g), and the mixture was stirred with refluxing. Water (200 ml) was added to the reaction mixture and the mixture was extracted with ether. The organic layer was washed with water and saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give the title compound (1.56 g) as colorless crystals, melting point 88-87° C.

reactant | N-(2-oxobutyl)-4-methoxybenzo(b)furan-2-carboxamide | 2.00 g | O=C(CNC(=O)C1=CC2=C(O1)C=CC=C2OC)CC | C14H15NO4
reactant | Burgess reagent | 7.30 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
reactant | Water | 200 ml | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-(5-ethyloxazol-2-yl)-4-methoxybenzo(b)furan | 1.56 g | C(C)C1=CN=C(O1)C1=CC2=C(O1)C=CC=C2OC | C14H13NO3
